US05250527
m-Chloroperbenzoic acid (7.3 g) in dichloromethane (100 ml) was added dropwise to a stirred solution of 4 -piperidino-5 -bromo-2 -picoline. After 16 hours, the solution was washed with 10 % aqueous sodium carbonate, dried (K2CO3) and stripped. The residue was chromatographed (silica gel, chloroform:methanol) to give 4 -piperidino-5 -bromo-2 -picoline-N-oxide, 6.79 g, m.p. 115°-6 ° from ether.

reactant | m-Chloroperbenzoic acid | 7.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4 -piperidino-5 -bromo-2 -picoline | N1(CCCCC1)C1=CC(=NC=C1Br)C | C11H15BrN2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4 -piperidino-5 -bromo-2 -picoline-N-oxide | N1(CCCCC1)C=1C=C([N+](=CC1Br)[O-])C | C11H15BrN2O
